US08383641B2
u.2 [2-(5-Amino-6-methyl-pyridin-2-yloxy)-ethyl]-propyl-carbamic Acid Tert-Butyl Ester
A solution of [2-(6-methyl-5-nitro-pyridin-2-yloxy)-ethyl]-propyl-carbamic acid tert-butyl ester (300 mg, 0.88 mmol) in methanol (10 ml) was hydrogenated using the ThalesNano H-Cube® hydrogenation reactor employing a 10% palladium on charcoal catalyst cartridge. After concentration of the solution under reduced pressure, 230 mg (84.2%) of the title compound were obtained.

reactant | [2-(6-methyl-5-nitro-pyridin-2-yloxy)-ethyl]-propyl-carbamic acid tert-butyl ester | 0.88 mmol, 300 mg | C(C)(C)(C)OC(N(CCC)CCOC1=NC(=C(C=C1)[N+](=O)[O-])C)=O | C16H25N3O5
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on charcoal | [Pd] | Pd
product | [2-(5-Amino-6-methyl-pyridin-2-yloxy)-ethyl]-propyl-carbamic Acid Tert-Butyl Ester | 230 mg, 84.2% | C(C)(C)(C)OC(N(CCC)CCOC1=NC(=C(C=C1)N)C)=O | C16H27N3O3
